US09079878B2
Ethyl 2-(3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)propanoate
To a solution of ethyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate (Preparation 34, 40 g, 140 mmol) in methanol (400 mL) at 0° C. was added a 4M solution of hydrogen chloride in 1,4-dioxane (72 mL). After 2 hours, a 4M aqueous solution of sodium hydroxide (400 mL) was added drop-wise until pH 7 was achieved whilst maintaining the temperature at 0° C. The methanol was removed in vacuo. The resulting solution was stirred with tetrahydrofuran (150 mL) and a 1M aqueous solution of sodium hydrogen carbonate (180 mL) at 0° C. Benzyl chloroformate (33.7 g, 187 mmol) was added and the reaction mixture stirred at room temperature for 18 hours. The organics were removed in vacuo and the resulting solution extracted with dichloromethane. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography to afford the title compound.

reactant | ethyl 2-{3-[(tert-butylsulfinyl)amino]oxetan-3-yl}propanoate | 140 mmol, 40 g | C(C)(C)(C)S(=O)NC1(COC1)C(C(=O)OCC)C | C12H23NO4S
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | 400 mL | [OH-].[Na+]
reactant | Benzyl chloroformate | 187 mmol, 33.7 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methanol | 400 mL | CO | CH4O
solvent | 1,4-dioxane | 72 mL | O1CCOCC1 | C4H8O2
product | Ethyl 2-(3-{[(benzyloxy)carbonyl]amino}oxetan-3-yl)propanoate | C(C1=CC=CC=C1)OC(=O)NC1(COC1)C(C(=O)OCC)C | C16H21NO5
